US09193693B2
Step 1. Methyl 3-morpholino-2-phenylquinoxaline-6-carboxylate
Into a 8-mL sealed tube, was placed a solution of methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv) in N,N-dimethylformamide (4 mL), morpholine (76.6 mg, 0.88 mmol, 2.00 equiv), DIEA (170.3 mg, 1.32 mmol, 3.00 equiv). The resulting solution was stirred overnight at 100° C. in an oil bath. The resulting solution was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10). This resulted in 136.4 mg (86%) of methyl 3-morpholino-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | morpholine | 0.88 mmol, 76.6 mg, 2.00 equiv | N1CCOCC1 | C4H9NO
reactant | DIEA | 1.32 mmol, 170.3 mg, 3.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | Methyl 3-morpholino-2-phenylquinoxaline-6-carboxylate | O1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C20H19N3O3
